US07888354B2
(1) Preparation of (1H-pyrazol-4-yl)-pyridin-2-ylmethanone
To a solution of 4-iodopyrazole (1.0 g) in tetrahydrofuran (10 mL), a solution of n-butyllithium in hexane (2.6 M, 4.8 mL) was added dropwise at −10° C. and stirred at room temperature for 1 hour. The reaction mixture was cooled to −10° C. and ethyl picolinate (0.86 g) was added thereto, followed by stirring at room temperature for 1.5 hours. The reaction mixture was diluted with saturated aqueous ammonium chloride and extracted with diethyl ether. The organic layer was washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: hexane:ethyl acetate=1:1 to 1:2) to give the titled compound (0.090 g) as a colorless solid.

reactant | 4-iodopyrazole | 1.0 g | IC=1C=NNC1 | C3H3IN2
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl picolinate | 0.86 g | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | hexane | 2.6 M, 4.8 mL | CCCCCC | C6H14
solvent | ammonium chloride | [Cl-].[NH4+]
product | (1H-pyrazol-4-yl)-pyridin-2-ylmethanone | 0.090 g | N1N=CC(=C1)C(=O)C1=NC=CC=C1 | C9H7N3O
